US07470679B2
N-(5-Chloro-2-formylphenyl)pivalamide
Pyridinium chlorochromate (1.19 g, 5.5 mmol) was added to a solution of N-(2-chloro-6-(hydroxymethyl)phenyl)pivalamide (884 mg, 3.67 mmol) in CH2Cl2 (100 mL) at 0° C. 5 min later the mixture was allowed stirring at room temperature for 3 hrs. The reaction mixture was passed through a thin pad layer of silica gel with CH2Cl2(2×100 mL), concentrated on rotary vacuo, and purified on a flash chromatography column eluting with 20˜50% EtOAc/hexanes (1000 mL) to afford the expected product as a white solid(414 mg, 47% yield); 1H NMR (400 MHz, CDCl3) δppm 1.37 (s, 9H), 7.30 (t, J=7.81 Hz, 1H), 7.64 (dd, J=7.93, 1.39 Hz, 1H), 7.77 (dd, J=7.55, 1.51 Hz, 1H), 8.25 (s, 1H), 9.84 (s, 1H); Mass spec. 240.08 (MH+), Calc. for C12H14ClNO2 239.07.

reactant | Pyridinium chlorochromate | 5.5 mmol, 1.19 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | N-(2-chloro-6-(hydroxymethyl)phenyl)pivalamide | 3.67 mmol, 884 mg | ClC1=C(C(=CC=C1)CO)NC(C(C)(C)C)=O | C12H16ClNO2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | N-(5-Chloro-2-formylphenyl)pivalamide | 414 mg, 47% yield | ClC=1C=CC(=C(C1)NC(C(C)(C)C)=O)C=O | C12H14ClNO2
